US08334295B2
To a stirred mixture of 5-trifluoromethyl uracil (1.8 g, 10 mmol) and powdered anhydrous potassium carbonate (1.38 g, 10 mmol) in DMF (50 mL), was added iodoethane (0.8 mL, 10 mmol). After stirring overnight at room temperature, the mixture was evaporated in vacuo and the residue was purified by silica gel column chromatography (eluent ethyl acetate:hexane (1:1)) to afford 563 mg (27%) of 1-ethyl-5-trifluoromethyl uracil as a white solid. m.p. 259-260° C.; 1H-NMR (200 MHz, CDCl3/CD3OD) δ 1.35 (3H, d, J=7.2 Hz), 3.87 (2H, q, J=7.2 Hz), 7.94 (1H, s); m/z (EI) 208 (M+).

reactant | 5-trifluoromethyl uracil | 10 mmol, 1.8 g | FC(C=1C(NC(NC1)=O)=O)(F)F | C5H3F3N2O2
reactant | potassium carbonate | 10 mmol, 1.38 g | C([O-])([O-])=O.[K+].[K+]
reactant | iodoethane | 10 mmol, 0.8 mL | ICC | C2H5I
solvent | DMF | 50 mL | CN(C)C=O | C3H7NO
product | 1-ethyl-5-trifluoromethyl uracil | 563 mg, 27% | C(C)N1C(=O)NC(=O)C(=C1)C(F)(F)F | C7H7F3N2O2
